US04902335
A mixture of 6-amino-7-fluoro-4-(pyridin-2-ylmethyl)-2H-1,4-benzoxazin-3(4H)-one (2 g), 3,4,5,6-tetrahydrophthalic anhydride (1.2 g) and acetic acid (50 ml) was heated under reflux for 1 hour. The acetic acid was distilled off under a reduced pressure, and the residue was dissolved in toluene (100 ml), washed in a saturated aqueous solution of sodium bicarbonate and then in water, and dried over anhydrous sodium sulfate. The toluene was distilled off under a reduced pressure, and the resultant residue was recrystallized from ethanol, whereby the aimed product, namely, 7-fluoro-4-(pyridin-2-ylmethyl)-6-(4,5,6,7-tetrahydro-2H-isoindole-1,3-dion-2-yl)-2H-1,4-benzoxazin-3(4H)-one (2.4 g) was obtained. m.p. 188°-190° C.

reactant | 6-amino-7-fluoro-4-(pyridin-2-ylmethyl)-2H-1,4-benzoxazin-3(4H)-one | 2 g | NC=1C(=CC2=C(N(C(CO2)=O)CC2=NC=CC=C2)C1)F | C14H12FN3O2
reactant | 3,4,5,6-tetrahydrophthalic anhydride | 1.2 g | C1(C2=C(C(=O)O1)CCCC2)=O | C8H8O3
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 7-fluoro-4-(pyridin-2-ylmethyl)-6-(4,5,6,7-tetrahydro-2H-isoindole-1,3-dion-2-yl)-2H-1,4-benzoxazin-3(4H)-one | 2.4 g | FC1=CC2=C(N(C(CO2)=O)CC2=NC=CC=C2)C=C1N1C(C=2CCCCC2C1=O)=O | C22H18FN3O4
